US06451814B1
4-(4-{2-[(2S)-3-(Benzo[1,3]dioxol-5-yloxy)-2-hydroxy-propylamino]-ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Octylamide
4-{[4-(2-Aminoethyl)phenyl]sulfonyl}-N-octyl-1-piperidinecarboxamide (0.920 g, 2.172 mmol) was reacted with 5-[(2S)oxiranylmethoxy]-1,3-benzodioxole(0.211 g, 1.086 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.209 g, 0.338 mmol).

reactant | 4-{[4-(2-Aminoethyl)phenyl]sulfonyl}-N-octyl-1-piperidinecarboxamide | 2.172 mmol, 0.920 g | NCCC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)NCCCCCCCC | C22H37N3O3S
reactant | 5-[(2S)oxiranylmethoxy]-1,3-benzodioxole | 1.086 mmol, 0.211 g | O1[C@@H](C1)COC1=CC2=C(OCO2)C=C1 | C10H10O4
product | 4-(4-{2-[(2S)-3-(Benzo[1,3]dioxol-5-yloxy)-2-hydroxy-propylamino]-ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Octylamide | 0.338 mmol, 0.209 g | C(CCCCCCC)NC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CCNC[C@@H](COC1=CC2=C(OCO2)C=C1)O | C32H47N3O7S
